US07915443B2
Methyl(3-{N-[(5-bromopyridin-3-yl)carbonyl]-S-methylsulfonimidoyl}phenyl)acetate
To a solution of 5-bromonicotinic acid (648 mg, 3.21 mmol), methyl[3-(S-methylsulfonimidoyl)phenyl]acetate (802 mg, 3.53 mmol), and catalytic DMAP in 15.0 ml DMF at room temperature was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (738 mg, 3.85 mmol). The reaction was stirred 1 hour at room temperature then added to EtOAc. The EtOAc solution was washed with dilute brine, NaHCO3 solution, brine, dilute HCl/brine mixture, brine/NaHCO3 solution, dried with anhydrous Na2SO4 and rotary evaporated. The oil was chromatographed eluting with CHCl3/EtOAc to give viscous clear oil (994 mg, 75%).

reactant | 5-bromonicotinic acid | 3.21 mmol, 648 mg | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | methyl[3-(S-methylsulfonimidoyl)phenyl]acetate | 3.53 mmol, 802 mg | COC(CC1=CC(=CC=C1)S(=O)(=N)C)=O | C10H13NO3S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.85 mmol, 738 mg | Cl.CN(CCCN=C=NCC)C
reactant | EtOAc | CCOC(=O)C | C4H8O2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 15.0 ml | CN(C)C=O | C3H7NO
product | Methyl(3-{N-[(5-bromopyridin-3-yl)carbonyl]-S-methylsulfonimidoyl}phenyl)acetate | 994 mg, 75% | COC(CC1=CC(=CC=C1)S(=O)(=NC(=O)C=1C=NC=C(C1)Br)C)=O | C16H15BrN2O4S
